US05753664
1,3-Dimethyl-7-[4-(4-methoxybenzoyl) benzyl]xanthine
In DMF (20 ml) was dissolved theophylline (1.84 g). To this solution were added potassium carbonate (1.42 g) and p-methoxybenzoylbenzyl bromide (3.78 g) and the mixture was stirred at room temperature for 14 hours. After addition of water and dilution with ethyl acetate (1200 ml), the organic layer was washed with water (500 ml) twice and saturated aqueous NaCl solution (500 ml) once and dried over anhydrous magnesium sulfate. After removal of the desiccant by filtration, the solvent was distilled off under reduced pressure and the resulting crystals were rinsed with ethyl acetate to provide 2.83 g (yield 69%) of the title compound.

reactant | theophylline | 1.84 g | N1(C)C(=O)N(C)C=2N=CNC2C1=O | C7H8N4O2
reactant | potassium carbonate | 1.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-methoxybenzoylbenzyl bromide | 3.78 g | COC1=CC=C(C(C(C2=CC=CC=C2)=O)Br)C=C1 | C15H13BrO2
reactant | water | O | H2O
reactant | ethyl acetate | 1200 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1,3-Dimethyl-7-[4-(4-methoxybenzoyl) benzyl]xanthine | 2.83 g, yield 69% | CN1C(=O)N(C=2N=CN(C2C1=O)CC1=CC=C(C=C1)C(C1=CC=C(C=C1)OC)=O)C | C22H20N4O4
